US05352388
Preparation of piperidinium 3-hydroxybenzoate
Piperidine (0.85 g; 10 mmol) was added dropwise to a solution of 3-hydroxybenzoic acid (1.38 g; 10 mmol) in ethanol (10 cm3). The solution was then left to stand at 5° C. in an open beaker for two weeks. This produced the desired product in the form of white crystals. The product was collected by filtration and recrystallized from water to produce translucent, colourless crystals. Found: C, 63.4%; H, 7.6%; N, 6.2%. Calculated for C12H17NO3 ; C, 64.55%; H, 7.69%; N, 6.24%. M.pt. 154°-156° C.

reactant | Piperidine | 10 mmol, 0.85 g | N1CCCCC1 | C5H11N
reactant | 3-hydroxybenzoic acid | 10 mmol, 1.38 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | piperidinium 3-hydroxybenzoate | OC=1C=C(C(=O)[O-])C=CC1.[NH2+]1CCCCC1 | InChI=1S/C7H6O3.C5H11N/c8-6-3-1-2-5(4-6)7(9)10;1-2-4-6-5-3-1/h1-4,8H,(H,9,10);6H,1-5H2
